US06316444B1
Step B: 2-[1-(1-(Benzyloxycarbonyl)-4-(N-naphth-1-yl-carbamoyl)-piperazine-2-yl)-ethylamino]-4-[5-(3-ethyl-imidazolidin-2-on-1-yl)benzimidazol-1-yl]pyrimidine
The title compound was prepared from 2-[1-(1-(benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)-piperazine-2-yl)-ethylamino]-4-[5-(3-ethyl-imidazolidin-2-on-1-yl)benzimidazol-1-yl]pyrimidine (35 mg) and naphthyl isocyanate (10 mg) according to the procedure described in EXAMPLE 14, Step F. Mass spectrum (ESI) 739.5 (M+1).

reactant | 2-[1-(1-(benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)-piperazine-2-yl)-ethylamino]-4-[5-(3-ethyl-imidazolidin-2-on-1-yl)benzimidazol-1-yl]pyrimidine | 35 mg | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N2C(N(CC2)CC)=O | C35H43N9O5
reactant | naphthyl isocyanate | 10 mg | C1(=CC=CC2=CC=CC=C12)N=C=O | C11H7NO
product | 2-[1-(1-(Benzyloxycarbonyl)-4-(N-naphth-1-yl-carbamoyl)-piperazine-2-yl)-ethylamino]-4-[5-(3-ethyl-imidazolidin-2-on-1-yl)benzimidazol-1-yl]pyrimidine | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(NC1=CC=CC2=CC=CC=C12)=O)C(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N2C(N(CC2)CC)=O | C41H42N10O4
